US07482354B2
Ethyl 1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate
30 g (0.125 mol) of ethyl (3-ethoxy-2-oxocyclohex-3-en-1-yl)(oxo)acetate were dissolved in 150 mL of glacial acetic acid and 6.5 mL of methylhydrazine were added. The mixture was stirred at room temperature for 6 hours. The solvent was then evaporated and the crude redissolved with water, the solution made basic with 30% NH4OH and extracted with chlorform. The organic layer was then dried over Na2SO4 and concentrated. The residue was chromatographed on a silica gel column (eluant: chloroform) and crystallized from a mixture n-hexane/diethyl ether (TLC chloroform; 63% yield as a white solid).

reactant | ethyl (3-ethoxy-2-oxocyclohex-3-en-1-yl)(oxo)acetate | 0.125 mol, 30 g | C(C)OC=1C(C(CCC1)C(C(=O)OCC)=O)=O | C12H16O5
reactant | methylhydrazine | 6.5 mL | CNN | CH6N2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | Ethyl 1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 63% yield | CN1N=C(C=2CCCC(C12)=O)C(=O)OCC | C11H14N2O3
